US08076488B2
To a solution of ethyl 2,4-difluorophenoxycarboxylate (3.27 g, 16.2 mmol) in concentrated H2SO4 (11 mL) at 0° C. was added fuming HNO3 (1.1 mL) dropwise, maintaining the internal temperature between 10 to 20° C. After stirring for 1 h, the mixture was poured over ice water (100 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (2×40 mL), dried over MgSO4, and concentrated in vacuo. The residue was dissolved in MeOH (50 mL), and sodium bicarbonate (2.72 g, 32.3 mmol) was added. The resultant mixture was stirred at room temperature for 64 h and the solid was filtered. The filtrate was concentrated and the residue was taken up in H2O (100 mL). The pH was adjusted to 5 with the addition of conc. HCl, and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (2×40 mL), dried over MgSO4, and evaporated under reduced pressure to give 2,4-difluoro-5-nitrophenol as a yellow solid (2.35 g, 13.4 mmol; 83% yield). 1H-NMR (DMSO-d6) δ 10.88 (s, 1H), 7.70 to 7.61 (m, 2H),

reactant | ethyl 2,4-difluorophenoxycarboxylate | 16.2 mmol, 3.27 g | FC1=C(OC(=O)OCC)C=CC(=C1)F | C9H8F2O3
reactant | HNO3 | 1.1 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | 32.3 mmol, 2.72 g | C([O-])(O)=O.[Na+]
solvent | H2SO4 | 11 mL | OS(=O)(=O)O | H2O4S
product | 2,4-difluoro-5-nitrophenol | 83% yield | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3F2NO3
